US09029536B2
B) Methyl 4-amino-1-ethyl-1H-pyrazole-5-carboxylate
A mixture of methyl 1-ethyl-4-nitro-1H-pyrazole-5-carboxylate (2.2 g) and 10% Pd—C (0.60 g) in MeOH (30 mL) was hydrogenated under balloon pressure at room temperature overnight. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure to give the title compound (1.8 g).

reactant | methyl 1-ethyl-4-nitro-1H-pyrazole-5-carboxylate | 2.2 g | C(C)N1N=CC(=C1C(=O)OC)[N+](=O)[O-] | C7H9N3O4
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd—C | 0.60 g | [Pd] | Pd
product | Methyl 4-amino-1-ethyl-1H-pyrazole-5-carboxylate | 1.8 g | NC=1C=NN(C1C(=O)OC)CC | C7H11N3O2
